US04250094
EXAMPLE 4: 8-Chloro-1-[(diethylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine
In the manner given in Example 4, 8-chloro-1-[di-propylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]-benzodiazepine is prepared by reacting dipropylamine with 8-chloro-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a]-[1,4]-benzodiazepine.

reactant | 6-phenyl-4H-s-triazolo[4,3-a][1,4]-benzodiazepine | C1(=CC=CC=C1)C1=NCC=2N(C3=C1C=CC=C3)C=NN2 | C16H12N4
reactant | dipropylamine | C(CC)NCCC | C6H15N
reactant | 8-chloro-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a]-[1,4]-benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=CC=CC=C3)C1 | C17H12Cl2N4
product | 8-Chloro-1-[(diethylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(CC)CC)C3=CC=CC=C3)C1 | C21H22ClN5
